US04743685
(A) 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, 2-[(1,1-dimethyl-ethoxy)carbonyl]hydrazide
3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl]-2-propenoic acid (1.36 g), 0.75 g of N-hydroxybenzotriazole, 0.01 g of N,N-dimethylaminopyridine and 1.06 g of dicyclohexylcarbodiimide were stirred in 20 ml of dimethylformamide at 0° C. for 20 minutes. 0.66 g of N-(t-butoxycarbonyl)hydrazine was added. After stirring overnight, the formed dicyclohexylurea was filtered off and the filtrate was washed with 10 ml of dimethylformamide. The filtrate was evaporated to dryness and the residue was suspended in 30 ml of water, 1 g of sodium bicarbonate was added, and after stirring, the title compound was isolated by filtration. Recrystallization from dimethylformamide/water gave white crystals. Yield: 1.47 g, melting point 141° C.

reactant | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl]-2-propenoic acid | 1.36 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)O | C15H13NO4
reactant | N-hydroxybenzotriazole | 0.75 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-(t-butoxycarbonyl)hydrazine | 0.66 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, 2-[(1,1-dimethyl-ethoxy)carbonyl]hydrazide | CC(C)(OC(=O)NNC(C=CC=1NC=C(C(C1)=O)OCC1=CC=CC=C1)=O)C | C20H23N3O5
